US07745631B2
In a stirred suspension of 96.37 g potassium carbonate in 700 gm dimethyl formamide, 100 gm 2-chloro nicotinic acid was charged. A solution of 82.38 g benzyl mercaptan in 300 gm dimethyl formamide was added in a period of two hours maintaining reaction temperature 80-90° C. The temperature of the reaction was raised up to 140° C. and then maintained for another three hours. 500 g water was added after completion of the reaction and solvent recovery. Product precipitation achieved by lowering the pH of the reaction mass by using dilute HCl. Product 2-(Phenyl methyl thio)-3-pyridine carboxylic acid precipitated completely till pH 4.5. After filtration and washing, cake was dried to get 110 g white to off white solid product 2-(Phenyl methyl thio)-3-pyridine carboxylic acid with 71.49% yield (Assay by HPLC 99.23%).

reactant | potassium carbonate | 96.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro nicotinic acid | 100 gm | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | benzyl mercaptan | 82.38 g | C(C1=CC=CC=C1)S | C7H8S
reactant | water | 500 g | O | H2O
solvent | dimethyl formamide | 700 gm | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 300 gm | CN(C=O)C | C3H7NO
product | 2-(Phenyl methyl thio)-3-pyridine carboxylic acid | 71.49% yield | C1(=CC=CC=C1)CSC1=NC=CC=C1C(=O)O | C13H11NO2S
